US07709509B2
1.15 g crude [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid were dissolved in 50 ml tetrahydrofuran and cooled in an ice bath to 0° C. At 0° C. 9.3 ml 1 M solution of borane tetrahydrofuran complex were added. The reaction mixture was warmed to 55° C. and stirred for one hour at this temperature. The reaction mixture was cooled in an ice bath and 50 ml water was added. The organic layer was added. The tetrahydrofuran was removed in vacuo and the residue extracted three times with portions of 80 ml ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4 and the solvent removed in vacuo to provide 1.1 g crude 2-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol as brown oil. This material was used without purification.

reactant | [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid | 1.15 g | C(CCC)C=1N=C(SC1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NO2S
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol | 1.1 g | C(CCC)C=1N=C(SC1CCO)C1=CC=C(C=C1)C(F)(F)F | C16H18F3NOS
